US07547697B2
(1S,8R)-5-Cyclopropylmethyl-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene
Yellow solid. MS (ESI): 243.2 (MH+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, [(3-cyclopropyl-2-oxo-propyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | (3-cyclopropyl-2-oxo-propyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(CC1CC1)=O | C8H15O4P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-5-Cyclopropylmethyl-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene | C1(CC1)CC=1N=NC=2[C@]3(CC[C@@H](C2C1)C3(C)C)C | C16H22N2
